US09446130B2
The mixture of (R)-3-bromo-N-(2,4-dimethoxybenzyl)-1-(1-tosyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (80 mg, 0.125 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide (59 mg, 0.150 mmol), Pd(PPh3)2Cl2 (9.2 mg, 0.0125 mmol) and K2CO3 (43 mg, 0.313 mmol) in dioxane/H2O (3 mL/0.3 mL) was stirred for 2 h at 90° C. under nitrogen atmosphere. Then the mixture was added water and extracted with DCM. The combined organic layer was washed with water, brine and dried over anhydrous Na2SO4. Concentrated in vacuo and the residue was purified with silica gel chromatography with PE/EA=1/1 to give (R)-4-(4-((2,4-dimethoxybenzyl)amino)-1-(1-tosyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide (90 mg, yield 87.2%) as yellow solid.

reactant | (R)-3-bromo-N-(2,4-dimethoxybenzyl)-1-(1-tosyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.125 mmol, 80 mg | BrC1=NN(C2=NC=NC(=C21)NCC2=C(C=C(C=C2)OC)OC)[C@H]2C=1C=NN(C1CCC2)S(=O)(=O)C2=CC=C(C)C=C2 | C28H28BrN7O4S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | 0.150 mmol, 59 mg | CC1(OB(OC1(C)C)C1=CC=C(C(=O)NC2=NC=CC(=C2)C(F)(F)F)C=C1)C | C19H20BF3N2O3
reactant | K2CO3 | 0.313 mmol, 43 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | dioxane H2O | 3 mL | O1CCOCC1.O
catalyst | Pd(PPh3)2Cl2 | 0.0125 mmol, 9.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (R)-4-(4-((2,4-dimethoxybenzyl)amino)-1-(1-tosyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)benzamide | 90 mg, yield 87.2% | COC1=C(CNC2=C3C(=NC=N2)N(N=C3C3=CC=C(C(=O)NC2=NC=CC(=C2)C(F)(F)F)C=C3)[C@H]3C=2C=NN(C2CCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC(=C1)OC | C41H36F3N9O5S
